US06562849B1
N-[2-[4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl]ethyl]nicotinamide dihydrochloride (dihydrochloride of exemplification compound number 6-59)
A mixture of 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.3 g), triethylamine (0.17 g) and anhydrous N,N-dimethylformamide (15 ml) was stirred at room temperature for 30 minutes. To the mixture was added nicotinamide hydrochloride (0.1 g) and this mixture was irradiated with ultrasound for 30 minutes, stirred at room temperature for 6 hours and then allowed to stand overnight. The reaction mixture was concentrated and partitioned between a mixture of ethyl acetate:tetrahydrofuran (1:1) and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by liquid chromatography (LiChroprepDIOL (MERCK)) using ethyl acetate:tetrahydrofuran=3:1 as the eluant. To a solution of the glassy product in tetrahydrofuran (5 ml) was added 4N hydrogen chloride in 1,4-dioxane (5 ml) and the mixture was irradiated with ultrasound for 30 minutes. The precipitate was isolated by filtration to afford the title compound (0.15 g, pale yellow powder, mp 176-180° C. (dec)).

reactant | 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.3 g | Cl.Cl.NCCC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | triethylamine | 0.17 g | C(C)N(CC)CC | C6H15N
reactant | nicotinamide hydrochloride | 0.1 g | Cl.C(C1=CN=CC=C1)(=O)N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[2-[4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl]ethyl]nicotinamide dihydrochloride | 0.15 g | Cl.Cl.O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C(C=C3)CCNC(C3=CN=CC=C3)=O)C=C1 | InChI=1S/C33H29N5O5S.2ClH/c1-38-28-18-26(43-25-10-4-21(5-11-25)14-16-35-31(39)23-3-2-15-34-19-23)12-13-27(28)36-30(38)20-42-24-8-6-22(7-9-24)17-29-32(40)37-33(41)44-29;;/h2-13,15,18-19,29H,14,16-17,20H2,1H3,(H,35,39)(H,37,40,41);2*1H
